US06992087B2
Preparation of 5-bromo-3,6-diethyl-N-(6-methoxy-2,3-dihydro-1H-inden-1-yl)pyrazin-2-amine
Following the procedure for the preparation of (1R,2S)-1-[(5-bromo-3,6-diethylpyrazin-2-yl)amino]-2,3-dihydro-1H-inden-2-ol but substituting 3,6-diethyl-N-(6-methoxy-2,3-dihydro-1H-inden-1-yl)pyrazin-2-amine and making non-critical variations provided the title compound as a oil: 1H NMR (CDCl3) δ 1.27-1.31, 1.86, 2.58, 2.75, 2.83, 2.85, 2.97, 3.80, 4.54, 5.67, 6.83-6.88, 7.20; HRMS (FAB) calcd for C18H22BrN3O+H 376.1025, found 376.1020. Anal. Calcd for C18H22BrN3O: C, 57.45; H, 5.89; N, 11.17; Br, 21.23. Found: C, 56.15; H, 5.65; N, 10.83.

reactant | (1R,2S)-1-[(5-bromo-3,6-diethylpyrazin-2-yl)amino]-2,3-dihydro-1H-inden-2-ol | BrC=1N=C(C(=NC1CC)N[C@H]1[C@H](CC2=CC=CC=C12)O)CC | C17H20BrN3O
reactant | 3,6-diethyl-N-(6-methoxy-2,3-dihydro-1H-inden-1-yl)pyrazin-2-amine | C(C)C=1C(=NC(=CN1)CC)NC1CCC2=CC=C(C=C12)OC | C18H23N3O
product | 5-bromo-3,6-diethyl-N-(6-methoxy-2,3-dihydro-1H-inden-1-yl)pyrazin-2-amine | BrC=1N=C(C(=NC1CC)NC1CCC2=CC=C(C=C12)OC)CC | C18H22BrN3O
